### PR TITLE
Cfg optimizations (unreachable blocks and block coalescing)

### PR DESCRIPTION
**Pull request by lkhml**

### CODE REVIEW

File: BoogieLang/CFGOptimizationsLoop.thy [hunk 1]
```diff
@@ -0,0 +1,1221 @@
...
+
+lemma loop_global_block_subset: 
+  assumes "global_block_lemma_loop A M \<Lambda> \<Gamma> \<Omega> G G' src_block tgt_block lsSubset posts" and
+          "(lsSubset) \<subseteq> (lsLoopHead)"
+     shows "global_block_lemma_loop A M \<Lambda> \<Gamma> \<Omega> G G' src_block tgt_block lsLoopHead posts"
+  using assms
+  unfolding global_block_lemma_loop_def
+  by blast
+
+lemma normal_target_verfies_show_hybrid_verifies:
```
Comment (gauravpartha) [inline BoogieLang/CFGOptimizationsLoop.thy]: typo: ver[i]fies

File: BoogieLang/CFGOptimizationsLoop.thy [hunk 2]
```diff
@@ -0,0 +1,1221 @@
...
+      using RedFailure TgtCmds oneStep by blast
+    have "(\<forall>ns1'. s1' = Normal ns1' \<longrightarrow> (\<forall>target_succ. List.member (out_edges(G') ! tgt_block) target_succ \<longrightarrow> (\<forall>m2' s2'. (A,M,\<Lambda>,\<Gamma>,\<Omega>,G' \<turnstile> (Inl target_succ, (Normal  ns1')) -n\<rightarrow>* (m2', s2')) \<longrightarrow> valid_configuration A \<Lambda> \<Gamma> \<Omega> posts m2' s2')))"
+      by (metis (no_types, lifting) RedNormalSucc TargetVerifies TgtCmds converse_rtranclp_into_rtranclp oneStep)
+    then show ?thesis
+      using \<open>s1' \<noteq> Failure\<close>
+      using False by presburger
+  qed
+qed
+
+
```
Comment (gauravpartha) [inline BoogieLang/CFGOptimizationsLoop.thy]: only one line of space

File: BoogieLang/CFGOptimizationsLoop.thy [hunk 3]
```diff
@@ -0,0 +1,1221 @@
...
+           (A,M,\<Lambda>,\<Gamma>,\<Omega>,G' \<turnstile> (Inl target_succ, (Normal  ns1')) -n\<rightarrow>* (m2', s2')) \<Longrightarrow>
+            valid_configuration A \<Lambda> \<Gamma> \<Omega> posts m2' s2'"
+ shows "hybrid_block_lemma_target_succ_verifies A M \<Lambda> \<Gamma> \<Omega> G' tgt_block s1' posts"
+  using assms
+  unfolding hybrid_block_lemma_target_succ_verifies_def
+  by blast
+
+
+
+
```
Comment (gauravpartha) [inline BoogieLang/CFGOptimizationsLoop.thy]: only one line of space

File: BoogieLang/CFGOptimizationsLoop.thy [hunk 4]
```diff
@@ -0,0 +1,1221 @@
...
+text \<open>We discussed the following useful lemma (that is used below in the main proofs)\<close>
```
Comment (gauravpartha) [inline BoogieLang/CFGOptimizationsLoop.thy]: remove this comment

File: BoogieLang/CFGOptimizationsLoop.thy [hunk 5]
```diff
@@ -0,0 +1,1221 @@
...
+       does not carry over that the resulting state is a failure state\<close>
+  shows "A,M,\<Lambda>,\<Gamma>,\<Omega> \<turnstile> \<langle>cs@cs',Normal ns\<rangle> [\<rightarrow>] Failure"
+  using assms
+  apply induction
+   apply (simp add: failure_red_cmd_list)
+  by (simp add: RedCmdListCons)
+
+
+
+
```
Comment (gauravpartha) [inline BoogieLang/CFGOptimizationsLoop.thy]: only one line of space

**Review by gauravpartha — APPROVED** [review]
Thanks for the PR! I added various commits since the PR, and it should be ready to be merged now.
